US06071899
4-tert-Butylsulfinyl-1-(4-phenyl-2-oxobutyl)azetidin-2-one
4-tert-Butylthio-1-(4-phenyl-2-oxobutyl)azetidin-2-one (0.6 g, 2 mmol) was dissolved in dry dichloromethane (30 ml) and the solution cooled to -50° C. A solution of m-CPBA (0.32 g, 2 mmol) in dry dichloromethane (20 ml) was added dropwise and the resulting mixture stirred for an additional 3 h. The mixture was poured into an aqueous solution of sodium hydrogen carbonate and sodium sulphite. The layers were separated and the aqueous layer was extracted with dichloromethane. The combined organic extracts were washed with sodium hydrogen carbonate solution, dried (MgSO4) and evaporated to give a solid which was purified by flash hromatography using ethyl acetate/ether and ethyl acetate as the eluting solvents. Evaporation of the appropriate fractions gave the title compound as a colourless solid, 0.3 g, 48%, m.p. 79-81° C.

reactant | 4-tert-Butylthio-1-(4-phenyl-2-oxobutyl)azetidin-2-one | 2 mmol, 0.6 g | C(C)(C)(C)SC1CC(N1CC(CCC1=CC=CC=C1)=O)=O | C17H23NO2S
reactant | m-CPBA | 2 mmol, 0.32 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-tert-Butylsulfinyl-1-(4-phenyl-2-oxobutyl)azetidin-2-one | C(C)(C)(C)S(=O)C1CC(N1CC(CCC1=CC=CC=C1)=O)=O | C17H23NO3S
